US05407592
Tolyltriazole-Formaldehyde-Diisobutylamine
Approximately 80.1 gm (0.6 mole) of tolyltriazole, 200 ml 2-propanol, and 78.0 gm (0.6 mole) diisobutylamine were mixed in a 500 ml reactor until a homogeneous phase was formed. 51.0 gm (0.618 mole) of aqueous formaldehyde was slowly added while maintaining a reactor temperature ≤40° C. Thereafter, the reactants were heated at 82±2° C. for 4 hrs., then at 110±2° C. for two additional hours during which isopropanol and water were removed by distillation. The final product (163.5 gm) is a yellowish liquid which solidifies upon standing at ambient temperature (m.p. 49°-51° C.). A final filtration to remove possibly unreacted tolyltriazole is optional. However, small amounts of residual water could make the final product appear hazy.

reactant | tolyltriazole | 0.6 mole, 80.1 gm | C1(=C(C=CC=C1)C=1N=NNC1)C | C9H9N3
reactant | diisobutylamine | 0.6 mole, 78.0 gm | C(C(C)C)NCC(C)C | C8H19N
reactant | formaldehyde | 0.618 mole, 51.0 gm | C=O | CH2O
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | Tolyltriazole-Formaldehyde Diisobutylamine | C1(=C(C=CC=C1)C1=C(N=NN1)C=O)C.C(C(C)C)NCC(C)C | InChI=1S/C10H9N3O.C8H19N/c1-7-4-2-3-5-8(7)10-9(6-14)11-13-12-10;1-7(2)5-9-6-8(3)4/h2-6H,1H3,(H,11,12,13);7-9H,5-6H2,1-4H3
